US06323228B1
ethyl 2-oxo-3-phenylpropanoate
A solution of diethyl oxalate (11.15 mL, 82.1 mmol) in diethyl ether (50 mL) at −78° C. was treated dropwise with 1 M benzylmagnesium chloride in diethyl ether (82 mL, 82 mmol) while maintaining an internal temperature of −60° C. The mixture was stirred for 30 minutes and poured into a mixture of concentrated HCl (8 mL), ice (40 mL), and diethyl ether (50 mL). The organic phase was washed with water and brine, dried (MgSO4), filtered, and concentrated to provide 15.5 g (98%) of the desired product of sufficient purity for subsequent use.

reactant | diethyl oxalate | 82.1 mmol, 11.15 mL | C(C(=O)OCC)(=O)OCC | C6H10O4
reactant | benzylmagnesium chloride | 1 M | C(C1=CC=CC=C1)[Mg]Cl
reactant | HCl | 8 mL | Cl | ClH
solvent | diethyl ether | 50 mL | C(C)OCC | C4H10O
solvent | diethyl ether | 50 mL | C(C)OCC | C4H10O
solvent | diethyl ether | 82 mmol, 82 mL | C(C)OCC | C4H10O
product | ethyl 2-oxo-3-phenylpropanoate | 15.5 g, 98% | O=C(C(=O)OCC)CC1=CC=CC=C1 | C11H12O3
